US07419997B2
N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-4-nitrobenzamide was prepared from 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine and 4-nitrobenzoyl chloride in a similar manner as described above to give an orange solid (32% yield). 1H-NMR (DMSO-d6): δ 11.11 (s, 1H), 9.24 (d, 1H), 8.36 (d, 2H), 8.19 (d, 2H), 7.62 (m, 1H), 7.29 (d, 1H), 7.18 (dd, 1H), 5.41 (m, 1H), 2.69 (m, 2H), 2.10 (m, 2H), 1.89 (m, 2H); MS m/z 414 (M−1).

reactant | 6-bromo-2,3,4,9-tetrahydro-1H-carbazol-1-amine | BrC=1C=C2C=3CCCC(C3NC2=CC1)N | C12H13BrN2
reactant | 4-nitrobenzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
product | N-(6-Bromo-2,3,4,9-tetrahydro-1H-carbazol-1-yl)-4-nitrobenzamide | BrC=1C=C2C=3CCCC(C3NC2=CC1)NC(C1=CC=C(C=C1)[N+](=O)[O-])=O | C19H16BrN3O3
